US06541638B2
A solution of 7.69 ml (70 mmol) phenylacetylen in 140 ml THF was treated at −25° C. with 43.8 ml (70 mol) n-butyllithium (1.6 M in hexane). The reaction was warmed up to −10° C. for 1 h. A solution of 7.46 g (14 mmol) (2S,4R)-2-(Methoxy-methyl-carbamoyl)-4-tritylsulfanyi-pyrrolidine-1-carboxylic acid butyl ester in 110 ml THF was then added. After 20 min the reaction was neutralized with 190 ml of an aqueous 10% KHSO4 solution. The mixture was extracted with aqueous 10% KHSO4/Et2O (3×). The organic phases were washed with aqueous saturated 10% NaCl, dried over Na2SO4, evaporated and purified by flash-chromatography on silicagel (Hexane/EtOAc 9:1) to give 6.54 g (81%) of (2S,4R)-2-(3-Phenyl-propynoyl)-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid butyl ester, MS: 574 (MH+).

reactant | phenylacetylen | 70 mmol, 7.69 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | n-butyllithium | 70 mol, 1.6 M, 43.8 ml | C(CCC)[Li]
reactant | (2S,4R)-2-(Methoxy-methyl-carbamoyl)-4-tritylsulfanyi-pyrrolidine-1-carboxylic acid butyl ester | 14 mmol, 7.46 g | C(CCC)OC(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(N(C)OC)=O | C31H36N2O4S
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 140 ml | C1CCOC1 | C4H8O
solvent | THF | 110 ml | C1CCOC1 | C4H8O
product | (2S,4R)-2-(3-Phenyl-propynoyl)-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid butyl ester | 6.54 g, 81% | C(CCC)OC(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(C#CC1=CC=CC=C1)=O | C37H35NO3S
